US06455550B1
N-[(1,1-Dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine (5.02 g, 10 mmol) and benzyl bromide (3.5 mL, 29 mmol) were stirred in DMF (25 mL) over KHCO3 (1.75 g, 17.5 mmol). After 18 hr, a white precipitate had formed. Most of the DMF was evaporated under reduced pressure, the residue was taken up in 100 mL of dichloromethane and was washed with water (2×50 mL). Most of the dichloromethane was evaporated and ether (100 mL) was added to precipitate the product. Filtration, washing with ether afforded N-[(1,1-dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine phenylmethyl ester (5.3 g), mp 186-187° C.

reactant | N-[(1,1-Dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine | 10 mmol, 5.02 g | CC(C)(OC(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)C | C29H30N2O6
reactant | benzyl bromide | 29 mmol, 3.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-[(1,1-dimethylethoxy)carbonyl]-4-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-L-phenylalanine phenylmethyl ester | 5.3 g | C1(=CC=CC=C1)COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C36H36N2O6
